US05670681
2) 1,1-Bisindenylethane
100.0 g (0.86 mol) of indene are dissolved in 400 ml of toluene and a solution of 86.2 g (2.2 mol) of sodium hydroxide and 19.6 g (86 mmol) of triethylbenzylammonium chloride in 86.2 ml of water (50% strength NaOH solution) is then added. The addition of 18.9 g (0.43 mol) of acetaldehyde is carried out dropwise over a period of 30 minutes. After a reaction time of 5 hours, the aqueous phase is separated off, extracted twice with 100 ml each time of diethyl ether and the combined organic phases are dried over MgSO4. The solvent is removed under reduced pressure and the crude product is purified by recrystallization from toluene/hexane. This gives 91.5 g of 1,1-bisindenylethane in 82% yield in the form of a yellow powder.

reactant | indene | 0.86 mol, 100.0 g | C1C=CC2=CC=CC=C12 | C9H8
reactant | sodium hydroxide | 2.2 mol, 86.2 g | [OH-].[Na+]
reactant | acetaldehyde | 0.43 mol, 18.9 g | C(C)=O | C2H4O
solvent | toluene | 400 ml | C1(=CC=CC=C1)C | C7H8
catalyst | triethylbenzylammonium chloride | 86 mmol, 19.6 g | [Cl-].C(C)[N+](CC1=CC=CC=C1)(CC)CC
solvent | water | 86.2 ml | O | H2O
product | 1,1-Bisindenylethane | 82% yield | C1(C=CC2=CC=CC=C12)C(C)C1C=CC2=CC=CC=C12 | C20H18
